US05015661
rac-3,4-Dihydro-6-[(3,4-dihydro-6-hydroxy-2,5,7,8-tetramethyl2H-1-benzopyran-2-yl) ethynyl]-4(trifluoroacetyl)-2H-1,4-benzoxazine.
This compound was prepared by coupling rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6ol (1,15 g or 5 mmol) with 4-(trifluoroacetyl)-3,4-dihydro-6-iodo 2H1,4-benzoxazine (1.95 g or 5.5 mmol) under the conditions described in Example 15. The product was isolated by chromatography over the 40 fold amount of silica gel methylene chloride. It was crystallized from ether/hexane and recrystallized twice from methanol to give colorless crystals with m.p. 153°-155°.

reactant | rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6ol | 5 mmol, 1,15 g | C(#C)C1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C15H18O2
reactant | 4-(trifluoroacetyl)-3,4-dihydro-6-iodo 2H1,4-benzoxazine | 5.5 mmol, 1.95 g | FC(C(=O)N1CCOC2=C1C=C(C=C2)I)(F)F | C10H7F3INO2
product | rac-3,4-Dihydro-6-[(3,4-dihydro-6-hydroxy-2,5,7,8-tetramethyl2H-1-benzopyran-2-yl) ethynyl]-4(trifluoroacetyl)-2H-1,4-benzoxazine | OC=1C(=C(C2=C(CCC(O2)(C)C#CC=2C=CC3=C(N(CCO3)C(C(F)(F)F)=O)C2)C1C)C)C | C25H24F3NO4
